US07723345B2
6.41. Synthesis of (2S)-2-Amino-3-(4-(2-amino-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoic acid
4-Chloro-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)pyrimidin-2-amine (0.14 g, 0.421 mmol), L-p-boronophenylalanine (110 mg, 0.505 mmol), Pd(PPh3)2Cl2 (18 mg, 0.025 mmol), Na2CO3 (98 mg, 0.926 mmol), MeCN (2.5 ml) and water (2.5 ml) were heated at 150° C. for 5 minutes in a microwave. The mixture was concentrated and purified via prep HPLC to give 74 mg of the title compound. M+1=469; 1H NMR (CD3OD) δ 7.83 (d, 2H), 7.47 (m, 1H), 7.38 (m, 4H), 7.28 (m, 1H), 4.21 (t, 1H), 3.29 (m, 1H), 3.15 (m, 1H).

reactant | 4-Chloro-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)pyrimidin-2-amine | 0.421 mmol, 0.14 g | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC(=C(C=C1)F)F)N | C12H7ClF5N3O
reactant | Na2CO3 | 0.926 mmol, 98 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | MeCN | 2.5 ml | CC#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.025 mmol, 18 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.5 ml | O | H2O
product | (2S)-2-Amino-3-(4-(2-amino-6-(1-(3,4-difluorophenyl)-2,2,2-trifluoroethoxy)pyrimidin-4-yl)phenyl)propanoic acid | 74 mg | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC(=C(C=C1)F)F)N | C21H17F5N4O3
